US07977351B2
5-Fluoro-3-[2-(2-methoxy-ethyl)-7H-furo[3,4-b]pyridin-5-ylidene]-1,3-dihydro-indol-2-one
A solution of 5-fluoro-3-[2-(2-methoxy-vinyl)-7H-furo[3,4-b]pyridin-5-ylidene]-1,3-dihydro-indol-2-one (27 mg, 0.08 mmol) in 10 mL MeOH is treated with palladium (10% on activated carbon, 27 mg) under an argon atmosphere. The resulting mixture is subject to hydrogenation at a pressure of 35 psi for 12 h. The reaction mixture is filtered, concentrated, and the residue is chromatographed (silica gel, MeOH-Chloroform). The product containing fractions are concentrated to give the title compound as yellow solid (5 mg, 18%).

reactant | 5-fluoro-3-[2-(2-methoxy-vinyl)-7H-furo[3,4-b]pyridin-5-ylidene]-1,3-dihydro-indol-2-one | 0.08 mmol, 27 mg | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)C=COC | C18H13FN2O3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | palladium | 27 mg | [Pd] | Pd
product | 5-Fluoro-3-[2-(2-methoxy-ethyl)-7H-furo[3,4-b]pyridin-5-ylidene]-1,3-dihydro-indol-2-one | 5 mg, 18% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)CCOC | C18H15FN2O3
